US07595320B2
A solution of 257 mg (0.44 mmol) of an approximately 70:30 mixture of tert-butyl 5-(N′-methyl-N′-phenylhydrazinocarbonyl)-3-(3-morpholin-4-ylmethylbenzoylamino)thieno[2,3-c]pyrazole-1-carboxylate and tert-butyl 5-(N′-(4-chlorophenyl)-N′-methylhydrazinocarbonyl)-3-(3-morpholin-4-ylmethylbenzoylamino)thieno[2,3-c]pyrazole-1-carboxylate in 4 mL of methanol is introduced into a microwave oven tube. The tube is stoppered and the reaction mixture is irradiated at a temperature in the region of 100° C. for 30 minutes. The reaction mixture is then concentrated to dryness under vacuum (2 kPa) at a temperature in the region of 40° C. The residue is purified by preparative LC/MS (conditions B). 105 mg of N-[5-(N′-methyl-N′-phenylhydrazinocarbonyl)-1H-thieno[2,3-c]pyrazol-3-yl]-3-morpholin-4-ylmethylbenzamide are thus obtained in the form of a yellow powder melting from 168 to 178° C. 1H NMR (400 MHz, (CD3)2SO-d6, δ in ppm): observation of the salt of the expected structure, with an 80%-20% mixture of conformers, such that: 3.16 (partially masked broad m, 2H); 3.18 (s, 3H); 3.32 (broad m, 2H); 3.63 (broad m, 2H); 3.98 (m, 2H); 4.44 (broad s, 2H); 6.77 (t, J=7.5 Hz, 0.8H); 6.82 (d, J=8.0 Hz, 1.6H); 6.94 (t, J=8.0 Hz, 0.2H); 7.02 (d, J=8.0 Hz, 0.4H); 7.22 (t, J=8.0 Hz, 1.6H); 7.31 (d, J=8.0 Hz, 0.4H); 7.66 (t, J=8.0 Hz, 1H); 7.74 (d, J=8.5 Hz, 1H); 8.15 (m, 3H); 9.70 (s, 0.2H); 10.0 (broad multiplet, 1H); 10.75 (s, 0.8H); 11.25 (s, 0.2H); 11.35 (s, 0.8H); 12.95 (very broad m, 1H).

reactant | tert-butyl 5-(N′-methyl-N′-phenylhydrazinocarbonyl)-3-(3-morpholin-4-ylmethylbenzoylamino)thieno[2,3-c]pyrazole-1-carboxylate | CN(NC(=O)C1=CC2=C(N(N=C2NC(C2=CC(=CC=C2)CN2CCOCC2)=O)C(=O)OC(C)(C)C)S1)C1=CC=CC=C1 | C30H34N6O5S
reactant | tert-butyl 5-(N′-(4-chlorophenyl)-N′-methylhydrazinocarbonyl)-3-(3-morpholin-4-ylmethylbenzoylamino)thieno[2,3-c]pyrazole-1-carboxylate | ClC1=CC=C(C=C1)N(NC(=O)C1=CC2=C(N(N=C2NC(C2=CC(=CC=C2)CN2CCOCC2)=O)C(=O)OC(C)(C)C)S1)C | C30H33ClN6O5S
solvent | methanol | 4 mL | CO | CH4O
product | N-[5-(N′-methyl-N′-phenylhydrazinocarbonyl)-1H-thieno[2,3-c]pyrazol-3-yl]-3-morpholin-4-ylmethylbenzamide | 105 mg | CN(NC(=O)C1=CC2=C(NN=C2NC(C2=CC(=CC=C2)CN2CCOCC2)=O)S1)C1=CC=CC=C1 | C25H26N6O3S
